US08378104B2
Step B: 3-bromothieno[3,2-c]pyridin-6(5H)-one
A solution of N-[(4-bromothiophen-3-yl)methyl]-2-ethoxy-3-methoxypropanamide (729 mg, 2.26 mmol) in acetic acid (4.5 mL) and hydrogen bromide (2.2 mL, 41 mmol) was heated to reflux for 2 h. Upon cooling a precipitate formed. The precipitate was collected by vacuum filtration, washing with acetic acid (2×10 mL) and diethyl ether (2×10 mL). The collected solid was suspended in water (10 mL) and treated with solid sodium bicarbonate until the solution pH was −8. The solid was then collected by vacuum filtration, washing with water (2×10 mL). The collected solid was dried in an oven at 50° C. for 16 h to afford 235 mg (45%) of the title compound as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.82 (br. s., 1 H), 8.07 (s, 1 H), 7.55 (s, 1 H), 7.01 (s, 1H); MS (ESI): 230.01, 231.99 [M+H]+; HPLC tR=2.53 min (ZQ3, polar—4 min).

reactant | N-[(4-bromothiophen-3-yl)methyl]-2-ethoxy-3-methoxypropanamide | 2.26 mmol, 729 mg | BrC=1C(=CSC1)CNC(C(COC)OCC)=O | C11H16BrNO3S
reactant | hydrogen bromide | 41 mmol, 2.2 mL | Br | BrH
solvent | acetic acid | 4.5 mL | C(C)(=O)O | C2H4O2
product | 3-bromothieno[3,2-c]pyridin-6(5H)-one | 235 mg, 45% | BrC1=CSC=2C1=CNC(C2)=O | C7H4BrNOS
